US08729308B2
Preparation of the (2S,3R)-3-(3-Amino-phenyl)-1-(dimethylamino)-2-methyl-pentan-3-ol (XIV)
726 ml of ethylmagnesium bromide (1M in THF; 0.726 mol) are added under a nitrogen flow into a 2-liter four-neck flask, provided with mechanical stirrer, thermometer and dropping funnel. A solution of (S)-3-(dimethylamino)-2-methyl-1-(3-nitro-phenyl)-propan-1-one (50 g, 0.242 mol) in 50 ml of THF are dripped maintaining the temperature between 15-30° C. The reaction is stirred at room temperature for 3 hours. It is cooled to about 10° C. and toluene (200 ml) and slowly a 20% ammonium hydrogen sulphate solution (200 ml) are added. The mixture is stirred for 30 minutes and the phases are separated after about 15 minutes of rest. The organic phase is concentrated under vacuum almost to oily residue. Then toluene (200 ml), 30% sodium metabisulfite solution (300 ml) are added. The mixture is stirred for 30 minutes and the phases are separated after about 15 minutes of rest. The aqueous phase is washed 2 times with 200 ml of toluene. The organic phases are eliminated while Cert-butylmethylether (200 ml) is added to the aqueous phase. The pH of the mixture is brought to 11-12 with 28% sodium hydroxide. The mixture is stirred for 30 minutes and the phases are separated after about 15 minutes of rest. The aqueous phase is eliminated while the organic phase is concentrated under vacuum to oily residue which solidifies by cooling. 35 g of a yellowish solid with a 95% HPLC purity are obtained.

reactant | ethylmagnesium bromide | 0.726 mol, 1M, 726 ml | C(C)[Mg]Br
reactant | (S)-3-(dimethylamino)-2-methyl-1-(3-nitro-phenyl)-propan-1-one | 0.242 mol, 50 g | CN(C[C@@H](C(=O)C1=CC(=CC=C1)[N+](=O)[O-])C)C | C12H16N2O3
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | ammonium hydrogen sulphate | 200 ml | S(=O)(=O)(O)[O-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (2S,3R)-3-(3-Amino-phenyl)-1-(dimethylamino)-2-methyl-pentan-3-ol | 35 g | NC=1C=C(C=CC1)[C@]([C@H](CN(C)C)C)(CC)O | C14H24N2O
